US05420275
8-Amino-5-fluoro-7-phenylpyrido[3,4-d]pyridazine-1,4(2H,3H)dione. (L-037)
In 1 ml of ethanol was dissolved 90 mg of 3-amino-6-fluoro-4,5-diethoxycarbonyl-2-phenylpyridine, followed by addition of 2 ml of hydrazine monohydrate. The mixture was stirred at room temperature for 4 hours. After the solvent was distilled off, the resulting crystals were collected by filtration with ethanol. Water was added to the crystals, and the mixture was neutralized with 1N hydrochloric acid, followed by collection by filtration. A methanol solution of the crystals was mixed with silica gel and purified by silica gel column chromatography (eluent:ethyl acetate→ethyl acetate/methanol 1:1), followed by collection by filtration with water.

reactant | 3-amino-6-fluoro-4,5-diethoxycarbonyl-2-phenylpyridine | 90 mg | NC=1C(=NC(=C(C1C(=O)OCC)C(=O)OCC)F)C1=CC=CC=C1 | C17H17FN2O4
reactant | hydrazine monohydrate | 2 ml | O.NN
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 8-Amino-5-fluoro-7-phenylpyrido[3,4-d]pyridazine-1,4(2H,3H)dione | NC1=C(N=C(C=2C(NNC(C21)=O)=O)F)C2=CC=CC=C2 | C13H9FN4O2
